US07838498B2
Preparation of 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propan-1-ol (Intermediate BL)
To a stirred 0° C. solution of 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl) propanoic acid (BK) (0.5 g, 1.26 mmol) in 8 mL of THF was added BH3 in Me2S (2M, 3.15 mL, 6.29 mmol). After stirring for 30 min at 0° C., the mixture was warmed to room temperature and stirred overnight. The reaction solution was slowly quenched with dropwise addition of water until no more gas evolved. The reaction mixture was taken up in 20 mL of ethyl acetate, washed with saturated Na2CO3, water and brine, and then dried over Na2SO4, filtered and concentrated to obtain 0.268 g of crude intermediate BL, which was used in the next step without further purification.

reactant | 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl) propanoic acid | 1.26 mmol, 0.5 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCC(=O)O | C18H18BrClO3
reactant | Me2S | 6.29 mmol, 2M, 3.15 mL | S(C)C | C2H6S
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-(2-bromo-5-chloro-4-(4-ethoxybenzyl)phenyl)propan-1-ol | 0.268 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCCO | C18H20BrClO2
